US07645753B2
5-Bromo-3-ethoxy-2-methoxy-pyridine
To a stirred mixture of 3-ethoxy-2-methoxy-pyridine (2.7 g, 17.6 mmol, 1.0 equiv) and sodium acetate (1.74 g, 21.2 mmol, 1.2 equiv) in acetic acid (50 mL) at 10° C. was slowly added a solution of bromine (1.09 mL, 3.38 g, 21.2 mmol, 1.2 equiv) in acetic acid (10 mL). After the addition was completed the reaction mixture was stirred for 1 h at rt. The reaction mixture was poured on ice, neutralized with NaOH and the solution extracted with diethylether (3×50 mL). The combined organic phases were dried over MgSO4 and the solvent removed by evaporation under reduced pressure yielding 3.86 g (94%) of a mixture of 5-bromo-3-ethoxy-2-methoxy-pyridine and 6-bromo-3-ethoxy-2-methoxy-pyridine in the ratio 3:2 as indicated by 1H NMR, which was used directly in the next reaction step. 1H NMR (300 MHz, CDCl3): δ 1.39 (t, J=7.0 Hz, 3H), 3.91 (s, 3H), 3.98 (q, J=7.0 Hz, 2H), 7.05 (d, J=1.9 Hz, 1H), 7.69 (d, J=1.9 Hz, 1H).

reactant | 3-ethoxy-2-methoxy-pyridine | 17.6 mmol, 2.7 g, 1.0 equiv | C(C)OC=1C(=NC=CC1)OC | C8H11NO2
reactant | sodium acetate | 21.2 mmol, 1.74 g, 1.2 equiv | C(C)(=O)[O-].[Na+]
reactant | bromine | 21.2 mmol, 1.09 mL, 3.38 g, 1.2 equiv | BrBr | Br2
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 5-Bromo-3-ethoxy-2-methoxy-pyridine | 3.86 g, 94% | BrC=1C=C(C(=NC1)OC)OCC | C8H10BrNO2
